US07528147B2
A solution of maleimide (68 g; 700 mmol) in acetic anhydride (500 ml) is placed in a 1000 ml three-necked flask and the reaction mixture is then brought to reflux for 3 hours. After returning to 20° C., the reaction mixture is evaporated under reduced pressure, resulting in an oil, which is crystallized from ethyl acetate (100 ml). After filtering-off the solid and washing with ethyl acetate (25 ml) and diisopropyl ether (100 ml), and drying under reduced pressure at constant weight, N-acetylmaleimide (64.1 g; 65.8%) is isolated, the characteristics of which are as follows:

reactant | maleimide | 700 mmol, 68 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | acetic anhydride | 500 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetylmaleimide | 64.1 g, 65.8% | C(C)(=O)N1C(C=CC1=O)=O | C6H5NO3
